US07700595B2
To a solution of 1-(2-amino-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one (4.2 g, 13.8 mmol) in AcOH (70 ml) and H2SO4 (10 ml) was added a solution of NaNO2 (1.8 g in 10 ml H2O). The reaction was then heated to 70° C. After 1.5 hr, the reaction was cooled, poured into water and extracted with EtOAc. The organic layer was dried (MgSO4) and concentrated to give 3-benzyl-8-trifluoromethyl-cinnolin-4-ol

reactant | 1-(2-amino-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one | 13.8 mmol, 4.2 g | NC1=C(C=CC=C1C(F)(F)F)C(CCC1=CC=CC=C1)=O | C16H14F3NO
reactant | NaNO2 | 10 ml, 1.8 g | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | AcOH | 70 ml | CC(=O)O | C2H4O2
solvent | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
product | 3-benzyl-8-trifluoromethyl-cinnolin-4-ol | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1O)C(F)(F)F | C16H11F3N2O
